US05238599
55 g (0.30 mol) of trans-4-butylcyclohexane carboxylic acid was dispersed in 200 c; of toluene and stirred. 250 cm3 (0.90 mol) of a 70% NaAlH2 (OC2H4OCH3)2 solution was added drop-wise to the solution at a rate to gently reflux the toluene. After the drop-wise addition was completed, the resulting mixture was stirred over a hot water bath at 90° C. for 3 hours. The solution was cooled to room temperature and, while stirring, 10 cm3 of water and 300 cm3 an aqueous 15% hydrochloric acid solution were added drop-wise while stirring. The oily layer was separated out and the aqueous layer was extracted with toluene. The two layers were combined and washed with an aqueous 15% hydrochloric acid solution and water. The toluene was distilled off the washed mixture. The oily residue was distilled in a vacuum (b.p. 100° C./2 mmHg) to yield 37 g (0.11 mol) of trans-4-butylcyclohexyl methanol.

reactant | trans-4-butylcyclohexane carboxylic acid | 0.30 mol, 55 g | C(CCC)[C@@H]1CC[C@H](CC1)C(=O)O | C11H20O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 cm3 | O | H2O
product | trans-4-butylcyclohexyl methanol | 0.11 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CO | C11H22O
